US07659394B2
To a stirring mixture at room temperature of (S)-2-hydroxymethyl-morpholine-4-carboxylic acid, tert-butyl ester, 2-ethoxyphenol and triphenylphosphine in DME was added dropwise diisopropyl azodicarboxylate. The solution was stirred at room temperature for 24 h, concentrated (to remove most of the DME), then suspended into hexanes. The solid that formed was filtered. The filtrate was concentrated, redissolved into diethyl ether, then washed with 1 N NaOH (2×), sat. KH2PO4 and brine solutions. The organic extract was dried (MgSO4), filtered, concentrated and chromatographed (MPLC, silica gel, 20% EtOAc in hexanes) to give (S)-2-(2-ethoxy-phenoxymethyl)-morpholine-4-carboxylic acid, tert-butyl ester as a colorless oil.

reactant | (S)-2-hydroxymethyl-morpholine-4-carboxylic acid, tert-butyl ester | OC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | 2-ethoxyphenol | C(C)OC1=C(C=CC=C1)O | C8H10O2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | DME | COCCOC | C4H10O2
product | (S)-2-(2-ethoxy-phenoxymethyl)-morpholine-4-carboxylic acid, tert-butyl ester | C(C)OC1=C(OC[C@@H]2CN(CCO2)C(=O)OC(C)(C)C)C=CC=C1 | C18H27NO5
